US05053509
3-Ethoxycarbonyl-1-(2-fluoroethyl)-7,8,9-trifluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under conditions similar to Example 3, but starting with ethyl 2-(2-chloro-6,7,8-trifluoro-3-quinolinecarbonyl)(dimethylamino)acrylate (3.9 g), 2-fluoroethylamine hydrochloride (3 g) and triethylamine (4.2 cc) in ethanol (100 cc). After the addition of DBU (1.8 cc), the solution is heated for 2 hours to 80° C. After the same treatment of the reaction mixture as in Example 24, 3-ethoxycarbonyl-7,8,9-trifluoro-1-(2-fluoroethyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (2.8 g) is obtained in the form of a yellow solid, m.p. 302°-304° C.

reactant | ethyl 2-(2-chloro-6,7,8-trifluoro-3-quinolinecarbonyl)(dimethylamino)acrylate | 3.9 g | ClC1=NC2=C(C(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F)F | C17H14ClF3N2O3
reactant | 2-fluoroethylamine hydrochloride | 3 g | Cl.FCCN
reactant | triethylamine | 4.2 cc | C(C)N(CC)CC | C6H15N
reactant | DBU | 1.8 cc | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | 3-ethoxycarbonyl-7,8,9-trifluoro-1-(2-fluoroethyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 2.8 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)CCF)C(=C(C(=C3)F)F)F)=O | C17H12F4N2O3
